US07585839B2
1) Boc-Asn-Tyr(tBu)-OtBu
Boc-Asn-OH (3.5 g 15 mmol) is dissolved in dichloromethane (100 ml amylene stabilised free of alcohol) and HOBt (2.24 g dry 16.5 mmol) is added. The mixture is cooled in an ice/water bath and DIC (2.45 ml 16 mmol) is added. The mixture will be allowed to react for 20 min. The HOBt on the bottom will react and a precipitate of DIU (on top) will form. H-Tyr(tBu)-OtBu×HCl (5.1 g 15.4 mmol) is dissolved in DMF (30 ml dry). The dichloromethane mixture containing the activated ester is filtered from the DIU directly into the DMF solution. The combined mixture is cooled in ice/water and NMM (1.75 ml 15.8 mmol) is added. The mixture is allowed to react over night. The solvents will be removed in vacuo. Ethyl acetate 200 ml is added and a precipitate is removed and the solution is washed with citric acid (2×50 ml 10%), sodium hydrogen carbonate (2×50 ml saturated) and brine (2×50 ml). The solution is dried with magnesium sulfate and the solvent removed in vacuo ending at 0.2 mBar for 30 min. The raw product will be suspended in pentane (40 ml) and filtered from a precipitate of DIU. The pentane will be removed in vacuo yielding the title compound.

reactant | Boc-Asn-OH | 15 mmol, 3.5 g | N([C@@H](CC(N)=O)C(=O)O)C(=O)OC(C)(C)C | C9H16N2O5
reactant | HOBt | 16.5 mmol, 2.24 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIC | 16 mmol, 2.45 ml | CC(N=C=NC(C)C)C | C7H14N2
reactant | H-Tyr(tBu)-OtBu | N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC(C)(C)C | C17H27NO3
reactant | HCl | 15.4 mmol, 5.1 g | Cl | ClH
reactant | NMM | 15.8 mmol, 1.75 ml | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | Boc-Asn-Tyr(tBu)-OtBu | N([C@@H](CC(N)=O)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C26H41N3O7
